US04097591
To a solution of 3.00 g of NG -nitro-N2 -(3-cyclohexyl-4-methoxyphenylsulfonyl)-L-arginyl-N-butylglycine benzyl ester in 50 ml of ethanol, 10 ml of acetic acid and 10 ml of water was added 0.5 g of palladium-black and then the mixture was shaken in a hydrogen atmosphere for 50 hours at room temperature. At the end of this period, the ethanol solution was filtered to remove the catalyst and evaporated to dryness. The residue was washed several times with dry ethyl ether and chromatographed on 80 ml of Daiaion® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with water, and eluted with 3% ammonium hydroxide solution. The fraction eluted from 3% ammonium hydroxide solution was evaporated to dryness to give 1.5 g (72%) of N2 -(3-cyclohexyl-4-methoxyphenylsulfonyl)-L-arginyl-N-butylglycine as an amorphous solid. I.R. (KBr): 3,350, 2,920, 1,630, 1,250 cm-1

reactant | nitro-N2 -(3-cyclohexyl-4-methoxyphenylsulfonyl)-L-arginyl-N-butylglycine benzyl ester | C(C1=CC=CC=C1)OC(CN(CCCC)C([C@@H](N(S(=O)(=O)C1=CC(=C(C=C1)OC)C1CCCCC1)[N+](=O)[O-])CCCNC(N)=N)=O)=O | C32H46N6O8S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | water | 10 ml | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-black | 0.5 g | [Pd] | Pd
product | N2 (3-cyclohexyl-4-methoxyphenylsulfonyl)-L-arginyl-N-butylglycine | 1.5 g, 72% | N#N.C1(CCCCC1)C=1C=C(C=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CCCC | InChI=1S/C25H41N5O6S.N2/c1-3-4-15-30(17-23(31)32)24(33)21(11-8-14-28-25(26)27)29-37(34,35)19-12-13-22(36-2)20(16-19)18-9-6-5-7-10-18;1-2/h12-13,16,18,21,29H,3-11,14-15,17H2,1-2H3,(H,31,32)(H4,26,27,28);/t21-;/m0./s1
